data/rdb19/train.csv
rxn,smiles,ea
2385,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:13]1([H:21])[C:12]([H:20])[C:11]([H:19])=[C:10]([C:9](=[C:8]([H:16])[H:17])[H:18])[C:15]([H:23])=[C:14]1[H:22],40.130399088579
1588,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([H:21])([H:22])[H:23])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],57.273227102239616
2239,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[C:11]([O:10][C:9]([C:8]([H:15])([H:16])[H:17])([H:18])[H:19])([O:12])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:5])([H:6])[H:7],25.11018836812582
1972,[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([H:17])[C:18]([C:19]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([H:17])=[C:18]([C:19]([H:27])([H:28])[H:29])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:25])[H:8])([H:6])[H:7],30.92432250996353
2294,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([H:17])([H:18])[H:19].[H:5][C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21],90.94225003971953
2051,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],34.37292625318514
3395,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:20]([C:18]([C:17]([H:23])([H:24])[H:25])=[C:19]([H:26])[H:27])([O:21])[O:22][H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],25.76252631674288
5102,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8][c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:28])[H:29],26.00387245870661
2627,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[H:16][C:23]([H:33])([H:34])[H:35],73.07202209834941
2318,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[H:14])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:15])[H:16],19.651159507397097
4308,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])([H:27])([H:28])[H:29].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:30])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],26.467457505350467
